US06380238B1
7-Chloro-5-fluoroindole
To a stirred solution of lithium aluminium hydride (0.57 g, 15 mmol) in THF (20 mL) at 0° C. under Ar was added portionwise 7-chloro-5-fluoroindole-2,3-dione. The mixture was heated under reflux for 4 h, cooled to 0° C. and water (0.5 mL) was added. The mixture was stirred for 5 min then treated with aqueous sodium hydroxide solution (2 N, 0.5 mL) followed by water (0.5 mL) and filtered through a pad of celite®. The filter-cake was washed with tetrahydrofuran and the filtrate was concentrated in vacuo and purified by column chromatography [SiO2; heptane-ethyl acetate (3:1)] to give the product (0.31 g, 37% yield) as a blue-oil: IR νmax (film)/cm−1 3459, 1575, 1485, 1341, 1120 and 722; NMR δH (400 MHz, CDCl3) 6.55 (1H, t, J 2.5 Hz) 7.01 (1H, dd, J 9,2 Hz) 7.21 (1H, m) 7.29 (1H, t, J 2.5 Hz) 8.33 (1H, brs).

reactant | lithium aluminium hydride | 15 mmol, 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-chloro-5-fluoroindole-2,3-dione | ClC=1C=C(C=C2C(C(NC12)=O)=O)F | C8H3ClFNO2
reactant | water | 0.5 mL | O | H2O
reactant | sodium hydroxide | 2 N, 0.5 mL | [OH-].[Na+]
reactant | water | 0.5 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-Chloro-5-fluoroindole | 0.31 g, 37% yield | ClC=1C=C(C=C2C=CNC12)F | C8H5ClFN
